Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___
 
Chief Complaint:
Bleed
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ year-old right-handed man with a PMH of CML,
ESRD, HF who was transferred from an OSH with ICH and underlying
mass. Mr. ___ has been feeling increasingly weak "all over" 
for
the past week. He also seemed to list from side to side when
walking and seemed more disoriented. He was at HD today but was
too weak to stand, despite being supported by his 3 sons. They
decided to take him to the ED.

EMS noted him to be weak and lethargic and noted to be "unable 
to
talk at times". It appears that he may have been given Narcan 
and
thiamine for unclear reasons. His BP was 118/P. He was taken to
___ where he was found to have a 4.7x3cm hemorrhagic
mass with edema as well as pleural effusions. He was then
transferred here for further care. His INR was 1.3 and his PTT
was 52. His Platelet's were 187. He was also noted to have an
elevated BNP of 287.

Here, the head CT was repeated and the images where discussed at
length with the patient, his daughter and granddaughter (HCP).
They have decided not to pursue aggressive measures as he has 
had
a step-wise decline since ___ when he developed HF with a
severely depressed EF and ESRD. They would like to make him CMO
today and attempt to arrange for hospice in the morning. 

 
Past Medical History:
- ESRD
- Anemia
- CHF (Ef ___
- CLL x ___ yrs
- 1 episode of afib
 
Social History:
___
Family History:
Family Hx:  parents died of "old age" with no known medical
problems

 
Brief Hospital Course:
The patient was admitted to the neurology service with an 
intracerebral hemorrhage. Given his progressive decline since 
___, the family (including health care proxy) wished to make 
him DNR and elected for comfort measures only. He was discharged 
home with hospice after consultation with palliative care.
 
Medications on Admission:
- Glivec
- Zofran
- Epogen
- Nephrocaps
- Nexium
- ASA
- Megace
- Carvedilol
- Lasix
- Heparin Flush

 
Discharge Medications:
1. Acetaminophen 325 mg Tablet Sig: One (1) Tablet PO Q6H (every 
6 hours) as needed.  
2. Morphine 2 mg/mL Syringe Sig: ___  Injection Q4H (every 4 
hours) as needed for pain.  
3. Lorazepam 2 mg/mL Syringe Sig: One (1)  Injection Q4H (every 
4 hours) as needed for anxiety.  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Rigth parietal bleed (probable undelying mass)
 
Discharge Condition:
Stable
 
Discharge Instructions:
You will be followed up by the hospice service. 
 
Followup Instructions:
___